US04279639
2-Bromo-4-aminopyridine (433 mg, 2.5 mmol) was added to 15 ml of dry benzene and the mixture warmed to dissolve the pyridine. 298 mg (2.5 mmol) of phenyl isocyanate was added to the solution and the resulting mixture stirred at room temperature for 20 hrs. The crystals which formed were collected by filtration and subjected to chromatography in a conventional manner using alumina. After developing the column with a benzene-ethyl acetate (2.5:1 volume) solvent mixture, the eluate containing the objective compound was collected. After distilling solvent off under reduced pressure, the residue was recrystallized from 70% methanol to give 308 mg of N-(2-bromo-4-pyridyl)-N'-phenylurea: yield 42.1%; m.p. 188°-189° C.

reactant | 2-Bromo-4-aminopyridine | 2.5 mmol, 433 mg | BrC1=NC=CC(=C1)N | C5H5BrN2
reactant | benzene | 15 ml | C1=CC=CC=C1 | C6H6
reactant | phenyl isocyanate | 2.5 mmol, 298 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(2-bromo-4-pyridyl)-N'-phenylurea | 308 mg, yield 42.1% | BrC1=NC=CC(=C1)NC(=O)NC1=CC=CC=C1 | C12H10BrN3O
